US05594023
3-Amino-3-(2-chlorophenyl)-5-ethoxy-1,3-dihydro-1-(2,4-dimethoxybenzenesulfonyl)indol-2-one
This compound is prepared according to the procedure described in EXAMPLE 1 from 3-amino-3-(2-chlorophenyl)-5-ethoxy-1,3-dihydroindol-2-one and 2,4-dimethoxybenzenesulfonyl chloride. The expected product is obtained after crystallization from a DCM/hexane/iso ether mixture. M.p.=196°-198° C.

reactant | 3-amino-3-(2-chlorophenyl)-5-ethoxy-1,3-dihydroindol-2-one | NC1(C(NC2=CC=C(C=C12)OCC)=O)C1=C(C=CC=C1)Cl | C16H15ClN2O2
reactant | 2,4-dimethoxybenzenesulfonyl chloride | COC1=C(C=CC(=C1)OC)S(=O)(=O)Cl | C8H9ClO4S
product | 3-Amino-3-(2-chlorophenyl)-5-ethoxy-1,3-dihydro-1-(2,4-dimethoxybenzenesulfonyl)indol-2-one | NC1(C(N(C2=CC=C(C=C12)OCC)S(=O)(=O)C1=C(C=C(C=C1)OC)OC)=O)C1=C(C=CC=C1)Cl | C24H23ClN2O6S
